US06057369
A solution of n-butyl lithium in hexanes (1.9 mL, 4.4 mmol) is added dropwise to a solution of 1-(5-phenylpentane-1-sulfonyl)-4-methoxybenzene (1.35 g, 4.24 mmol) in THF (15 mL) at -78° C. The reaction is stirred at -78° C. for 15 minutes, raised to -30° C. for 15 minutes and then returned to -78° C. This solution is then cannulated into a solution of methyl pyruvate (0.82 g, 7.2 mmol) in THF (5 mL) precooled to -78° C. After 15 minutes the reaction is slowly warmed to -30° C. and stirred 15 minutes before quenching with a solution of NH4Cl (15 mL). The reaction is partitioned between ether (150 mL) and water (50 mL), and the layers are separated. The ether layer is washed with brine (50 mL), dried (MgSO4) and concentrated in vacuo. The crude product is purified by gradient elution chromatography (silica, CH2Cl2 to 1% MeOH in CH2Cl2) to yield a diastereomeric mixture (2:3 ratio) of methyl 2-hydroxy-3-(4-methoxybenzenesulfonyl)-2-methyl-7-phenylheptanoate products (0.60 g, 35%). An analytical sample of each isomer is obtained by additional chromatography using identical conditions; upper isomer, methyl 2-hydroxy-3-(4-methoxybenzenesulfonyl)-2-methyl-7-phenylheptanoate: 1H NMR (300 MHz, CDCl3) δ 7.78 (d, J=8.7 Hz, 2H), 7.28-7.23 (m, 2H), 7.19-7.14 (m, 1H), 7.06 (d, J=7.6 Hz, 2H), 6.99-6.94 (m, 2H), 4.0-3.7 (br,1H), 3.87 (s, 3H), 3.78 (s, 3H), 3.34-3.30 (m, 1H), 2.45 (t, J=7.5 Hz, 2H), 1.98-1.75 (m, 2H), 1.61 (s, 3H), 1.48-1.38 (m, 2H), 1.29-1.10 (m, 2H); MS (FAB) m/e 421 (M+H)+ ; lower isomer methyl 2-hydroxy-3-(4-methoxybenzenesulfonyl)-2-methyl-7-phenylheptanoate: 1H NMR (300 MHz, CDCl3) δ 7.77-7.74 (m, 2H), 7.28-7.23 (m, 2H), 7.20-7.15 (m, 1H), 7.09 (d, J=7.6 Hz, 2H), 6.99-6.94 (m, 2H), 3.87 (s, 3H), 3.84 (s, 3H), 3.64 (bs, 1H), 3.52 (t, J=6.5 Hz, 1H), 2.51 (t, J=7.5 Hz, 2H), 1.92-1.86 (m, 2H), 1.52-1.33 (m, 4H), 1.41 (s, 3H); MS (FAB) m/e 421 (M+H)+.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-(5-phenylpentane-1-sulfonyl)-4-methoxybenzene | 4.24 mmol, 1.35 g | C1(=CC=CC=C1)CCCCCS(=O)(=O)C1=CC=C(C=C1)OC | C18H22O3S
reactant | methyl pyruvate | 7.2 mmol, 0.82 g | C(C(=O)C)(=O)OC | C4H6O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 2-hydroxy-3-(4-methoxybenzenesulfonyl)-2-methyl-7-phenylheptanoate | 0.60 g, 35% | OC(C(=O)OC)(C(CCCCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C22H28O6S
